US05496805
2-Acetylthiomethyl-4-methylpentanoyl chloride and (L)-phenylalanine, ethyl ester are reacted in methylene chloride in the presence of diisopropylethylamine at a temperature below 0° according to the procedure of Example 26 to yield (±)-N-[2-(acetylthiomethyl)-4-methyl-1-oxopentyl]-L-phenylalanine, ethyl ester as an off-white foam.

reactant | 2-Acetylthiomethyl-4-methylpentanoyl chloride | C(C)(=O)SCC(C(=O)Cl)CC(C)C | C9H15ClO2S
reactant | (L)-phenylalanine, ethyl ester | N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C11H15NO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-N-[2-(acetylthiomethyl)-4-methyl-1-oxopentyl]-L-phenylalanine, ethyl ester | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)CC(C)C | C20H29NO4S
